US07723538B2
4-[3-(5-Chloro-2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid, MS (ISP): m/e=459.0 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 5-chloro-2-methoxy-benzenesulfonyl chloride and yielded 4-[3-(5-chloro-2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(5-Chloro-2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1)OC | C21H17ClN2O6S
reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
product | 4-[3-(5-chloro-2-methoxy-benzenesulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O)=O | C23H21ClN2O6S
